US07132419B2
10-Hydroxy-4-methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
To a cold solution of 4,10-dimethoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (300 mg) in dichloromethane (25 mL) was added a 1.0M solution of boron tribromide in dichloromethane (1.63 mL, 2.2 equivalents). The reaction mixture was stirred for 6 hours and then ice was added with sodium carbonate and sodium chloride. The organics were extracted into dichloromethane, dried (MgSO4), and the solvent removed in vacuo to yield a yellow solid which was purified using flash chromatography to yield the title compound (61 mg)

reactant | 4,10-dimethoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 300 mg | CN(CCNC(=O)C1=C(C=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)OC)C | C23H24N4O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.63 mL, 2.2 equivalents | ClCCl | CH2Cl2
product | 10-Hydroxy-4-methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 61 mg | CN(CCNC(=O)C1=C(C=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)O)C | C22H22N4O3
